US04626325
4.6 g (25 mmol) of 1,2-benzisothiazol-3(2H)-one-1,1-dioxide (Saccharin®) were dissolved in 30 ml of trifluoroacetic acid and mixed with 4 g of sodium trifluoroacetate. The solution was electrolysed analogously to Example 1. After a charge quantity of 0.4 Ah had been used up the solution was added to water. It was extracted with chloroform and worked up as in Example 1. In addition to 3.3 g of starting material, 0.92 g of 4-hydroxy-1,2-benzisothiazol-3(2H)-one-1,1-dioxide were obtained after recrystallisation from water. This corresponds to a yield of 61% based on the starting material reacted;

reactant | 1,2-benzisothiazol-3(2H)-one-1,1-dioxide | 25 mmol, 4.6 g | S1(NC(C2=C1C=CC=C2)=O)(=O)=O | C7H5NO3S
reactant | sodium trifluoroacetate | 4 g | FC(C(=O)[O-])(F)F.[Na+]
reactant | water | O | H2O
solvent | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-hydroxy-1,2-benzisothiazol-3(2H)-one-1,1-dioxide | 0.92 g, yield of 61% | OC1=CC=CC2=C1C(NS2(=O)=O)=O | C7H5NO4S
